US06274737B1
(1RS, 2RS, 3SR)-1-(3,4-Methylenedioxyphenyl)-3-phenylindane-2-carboxylic acid
To a solution of ethyl (RS)-1-(3,4-methylenedioxyphenyl)-3-phenylindene-2-carboxylate (1.00 g, 2.60 mmol) in EtOH (25 ml) was added 10% palladium on activated carbon (30 mg). The resulting suspension was stirred under an atmosphere of H2 overnight. Thin layer chromatographic analysis indicated that the reaction was incomplete, so additional 10% palladium on activated carbon (30 mg) was added, and the mixture was shaken on a Parr hydrogenator at 30 psi H2 for 2 d. At this time, thin layer chromatographic analysis again indicated that the reaction was incomplete. The reaction mixture was filtered through a pad of Celite, and 10% palladium on activated carbon (250 mg) was added. The reaction mixture was shaken on a Parr hydrogenator at 60 psi H2 overnight. Filtration and repetition of the latter hydrogenation conditions led to complete consumption of starting material. The reaction mixture was filtered through a pad of Celite, and the filtrate was concentrated under reduced pressure to afford the title compound (650 mg, 65%), which was used without further purification.

reactant | ethyl (RS)-1-(3,4-methylenedioxyphenyl)-3-phenylindene-2-carboxylate | 2.60 mmol, 1.00 g | C1OC=2C=C(C=CC2O1)C1C(=C(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)OCC | C25H20O4
solvent | EtOH | 25 ml | CCO | C2H6O
catalyst | palladium on activated carbon | 30 mg | [Pd] | Pd
catalyst | palladium on activated carbon | 30 mg | [Pd] | Pd
product | 1-(3,4-Methylenedioxyphenyl)-3-phenylindane-2-carboxylic acid | 650 mg, 65% | C1OC=2C=C(C=CC2O1)C1C(C(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)O | C23H18O4
